US08389555B2
STEP A: Preparation of (1,4-Dioxa-spiro[4.5]dec-8-yl)-propyl-amine (1A)
To a solution of 9.36 g (60 mmol) 1,4-cyclohexanedione monoethylene acetal in 60 mL of methanol and 9.84 mL (120 mmol) of propylamine is added 0.6 g of palladium on carbon (10%). The mixture is stirred overnight under 4 bar hydrogen pressure. Filtration over Celite and concentration in vacuum provides the crude product in almost quantitative yield.

reactant | 1,4-cyclohexanedione monoethylene acetal | 60 mmol, 9.36 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | propylamine | 120 mmol, 9.84 mL | C(CC)N | C3H9N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 60 mL | CO | CH4O
catalyst | palladium on carbon | 0.6 g | [Pd] | Pd
product | (1,4-Dioxa-spiro[4.5]dec-8-yl)-propyl-amine | quantitative yield | O1CCOC12CCC(CC2)NCCC | C11H21NO2
